US07211601B2
(2S,4EZ)-1-acryloyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(2-furylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, acryloyl chloride, and 2-furylmethylamine the title compound was obtained in 74% purity by LC/MS. MS(ESI+): m/z=436.8.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | 2-furylmethylamine | O1C(=CC=C1)CN | C5H7NO
product | (2S,4EZ)-1-acryloyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(2-furylmethyl)-2-pyrrolidinecarboxamide | C(C=C)(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)NCC=1OC=CC1 | C20H19Cl2N3O4
